US07105544B2
1-(4-CHLOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)CYCLOBUTANECARBOXAMIDE
Example 86 was prepared from 1-(4-chlorophenyl)cyclobutanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.46 (d, 1H, J=1.6 Hz), 7.34 (s, 4H), 7.28–7.23 (m, 2H), 7.10 (d, 1H, J=8.4 Hz), 6.45 (br s, 1H), 3.31 (dd, 2H, J=5.6, 11.6 Hz), 2.95 (d, 2H, J=11.6 Hz), 2.88–2.81 (m, 2H), 2.68 (m, 1H), 2.54–2.44 (m, 3H), 2.33 (t, 2H, J=6.4 Hz), 2.29 (s, 3H), 2.11–1.90 (m, 4H), 1.76–1.63 (m, 6H), 1.26 (d, 6H, J=7.2 Hz) ESMS m/e: 510.3 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclobutanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCC1)C(=O)O | C11H11ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | 1-(4-CHLOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)CYCLOBUTANECARBOXAMIDE | ClC1=CC=C(C=C1)C1(CCC1)C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)C | C30H40ClN3O2
